US05663154
2-Amino-6-methylamino-9H-purine (0.43 g, 2.6 mmoles) and 2',3'-dideoxy-3'-fluorouridine (0.50 g, 2.2 mmoles) were suspended in 40 ml 10 mM potassium phosphate buffer, pH 7.0, containing 0.04% potassium azide. Purine nucleoside phosphorylase (1120 I.U.) and thymidine phosphorylase (10,000 I.U.) (Krenitsky, et al., Biochemistry, 20, 3615, 1981 and U.S. Pat. No. 4,381,344) immobilized on DEAE cellulose was added and the suspension was stirred at 45° C. After 2 days, 100 m, MeOH was added to the reaction mixture. The resulting mixture was applied to a column containing AG1-X2 (OH- form, 2.5×10 cm) and eluted with MeOH. Fractions containing product were pooled, concentrated, and flash chromatographed on silica gel (2.5×20 cm) with dichloromethane:methanol (96:4). Solvent was removed and lyophilization yielded 0.35 g of 2-amino-9-(2,3-dideoxy-3-fluoro-β-D-erythro-pentofuranosyl)-6-methylamino-9H-purine (56%): mp 111° C.; TLC RfO. (silica gel, MeCN:15N NH4OH:H2O/85:5:10); [α]D20 -30.0 (c=0.5, DMF); UV λmax (ε×10-3) at pH 7, 280 (13.2); at pH 13, 280 (13.2); 1H NMR (300 MHz, DMSO-d6) δ7.91 (s, 1H, H8), 7.30 (b, 1H, NH), 6.22 (dd, 1H, H1', J=9.4 Hz, J=5.5 Hz), 5.85 (bs, 2H, NH2), 5.55 (t, 1H, OH5', J=5.3 Hz), 5.40 (dd, 1H, H3', J=53.7 Hz, J=4.0 Hz), 4.19 (dm, 1H, H4', J=27.5 Hz), 3.59 (t, 2H, H5' and H5", J=4.6 Hz), 2.82-2.96 and 2.50-2.61 (m, 5H, NCH3, H2' and 2"); MS (ci) 283 (M+1), 263 (M-F), 165 (MH2 --C5H8FO2).

reactant | 2-Amino-6-methylamino-9H-purine | 2.6 mmoles, 0.43 g | NC1=NC(=C2N=CNC2=N1)NC | C6H8N6
reactant | 2',3'-dideoxy-3'-fluorouridine | 2.2 mmoles, 0.50 g | F[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O4
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
reactant | thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
solvent | potassium phosphate | 10 mM, 40 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | MeOH | CO | CH4O
product | 2-amino-9-(2,3-dideoxy-3-fluoro-β-D-erythro-pentofuranosyl)-6-methylamino-9H-purine | 0.35 g, 56% | NC1=NC(=C2N=CN(C2=N1)[C@H]1C[C@@H]([C@H](O1)CO)F)NC | C11H15FN6O2
